US07465730B2
To a solution of 1-phenyl-1,4-pentanedione (1.06g, 6.0 mmol) and toluene (50 mL) was added p-phenetidine (0.78 mL, 6.0 mmol) and 5 drops of glacial acetic acid. The mixture was heated at reflux overnight. After cooling to rt, the mixture was concentrated in vacuo and purified by flash chromatography on silica gel (15-25% EtOAc/hexanes) to give 1-(p-ethoxyphenyl)-5-methyl-2-phenyl-pyrrole as a yellow solid: 1H NMR (CDCl3, 500 MHz) δ 7.17-7.13 (m, 2H), 7.10-7.05 (m, 5H), 6.89-6.84 (m, 2H), 6.35 (d, 1H), 6.08 (d, 1H), 4.04 (q, 2H), 2.13 (s, 3H), 1.44 (t, 3H); MS (ESI) 278 (M+H)+.

reactant | 1-phenyl-1,4-pentanedione | 6.0 mmol, 1.06g | C1(=CC=CC=C1)C(CCC(C)=O)=O | C11H12O2
reactant | p-phenetidine | 6.0 mmol, 0.78 mL | CCOC=1C=CC(=CC1)N | C8H11NO
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(p-ethoxyphenyl)-5-methyl-2-phenyl-pyrrole | C(C)OC1=CC=C(C=C1)N1C(=CC=C1C)C1=CC=CC=C1 | C19H19NO
